* Schematics Netlist *



V_Vs1         $N_0001 0 5V
R_R4         0 $N_0002  400  
V_Vs2         $N_0001 $N_0003 12V
R_R2         $N_0003 $N_0002  200  
R_R1         $N_0001 $N_0002  100  
R_R3         0 $N_0002  300  
