* Schematics Netlist *



R_R2         0 $N_0001  1k  
R_R3         $N_0001 $N_0002  1k  
E_U1         $N_0002 0 VALUE {LIMIT(V($N_0001,$N_0003)*1E6,-15V,+15V)}
R_R1         $N_0003 $N_0002  1k  
C_C2         $N_0003 0  1n IC=10V 
