* Schematics Netlist *



R_R3         $N_0002 $N_0001  1k  
R_R2         $N_0002 $N_0003  1k  
R_R4         $N_0002 $N_0001  1k  
R_R1         $N_0002 $N_0003  1k  
R_R5         $N_0003 0  1k  
R_R6         $N_0003 0  1k  
V_V1         $N_0002 0 12V
R_R8         $N_0001 0  1k  
R_R7         $N_0001 0  1k  
R_R9         $N_0005 $N_0004  1k  
R_R10         $N_0005 $N_0006  1k  
R_R11         $N_0005 $N_0004  1k  
R_R12         $N_0005 $N_0006  1k  
R_R13         $N_0006 0  1k  
R_R14         $N_0006 0  1k  
V_V2         $N_0005 0 12V
R_R15         $N_0004 0  1k  
R_R16         $N_0004 0  1k  
R_R17         $N_0008 $N_0007  1k  
R_R18         $N_0008 $N_0009  1k  
R_R19         $N_0008 $N_0007  1k  
R_R20         $N_0008 $N_0009  1k  
R_R21         $N_0009 0  1k  
R_R22         $N_0009 0  1k  
V_V3         $N_0008 0 12V
R_R23         $N_0007 0  1k  
R_R24         $N_0007 0  1k  
R_R25         $N_0011 $N_0010  1k  
R_R26         $N_0011 $N_0012  1k  
R_R27         $N_0011 $N_0010  1k  
R_R28         $N_0011 $N_0012  1k  
R_R29         $N_0012 0  1k  
R_R30         $N_0012 0  1k  
V_V4         $N_0011 0 12V
R_R31         $N_0010 0  1k  
R_R32         $N_0010 0  1k  
